US08404859B2
A solution of 4-bromomethyl-1H-indazole (2.0 g, 9.476 mmol), 3,4-dihyro-2H-pyran (4.0 mL, 43.84 mmol), p-toluenesulfonic acid monohydrate (2.0 g, 10.51 mmol) and anhydrous THF (20 mL) was heated at 60° C. for 1 h. The reaction mixture was cooled, added to aqueous saturated sodium carbonate solution (50 mL) and extracted with ethyl acetate (200 mL). The organic layer was washed with brine (50 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (20% EtOAc in hexanes) to give 4-bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole (2.43 g, 86.9%) as an off white solid. MS m/e 296.2 (M+H+).

reactant | 4-bromomethyl-1H-indazole | 9.476 mmol, 2.0 g | BrCC1=C2C=NNC2=CC=C1 | C8H7BrN2
reactant | 3,4-dihyro-2H-pyran | 43.84 mmol, 4.0 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 10.51 mmol, 2.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole | 2.43 g, 86.9% | BrCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15BrN2O
